US06743926B2
(E)-5-[3-(4-Fluorophenyl)-1-isopropyl-1H-indol-2-yl]-3-oxopent-4-enoic Acid Methyl Ester
1 g of crude 5-[3-(4-fluorophenyl)-1-isopropyl-1H-indol-2-yl]-3,5-dihydroxypent-2-enoic acid methyl ester in 50 ml of toluene are introduced into a 100 ml three-necked round-bottomed flask equipped with a magnetic stirrer, thermometer, reflux condenser and nitrogen delivery line, 48 mg (0.025 mmol) of toluene-4-sulfonic acid are added and the mixture is stirred for 4 hours under reflux. The mixture is then cooled to room temperature, washed once with 25 ml of saturated sodium hydrogen carbonate solution and twice with 50 ml of saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated by evaporation. The crude product is purified by means of flash chromatography (hexane/ethyl acetate=9:1). An orange resin is obtained which, according to NMR, is the product in a keto-enol equilibrium of approximately 3:1.

reactant | 5-[3-(4-fluorophenyl)-1-isopropyl-1H-indol-2-yl]-3,5-dihydroxypent-2-enoic acid methyl ester | 1 g | COC(C=C(CC(O)C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C)O)=O | C23H24FNO4
reactant | toluene-4-sulfonic acid | 0.025 mmol, 48 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-5-[3-(4-Fluorophenyl)-1-isopropyl-1H-indol-2-yl]-3-oxopent-4-enoic Acid Methyl Ester | COC(CC(\C=C\C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C)=O)=O | C23H22FNO3
